data/mechanism_extracts/OrgLett/10.1021_acs.orglett.5c03365.json
{"doi": "10.1021_acs.orglett.5c03365", "journal": "OrgLett", "is_review": false, "rxn_class_summary": "NaBr-mediated electrochemical anti-Markovnikov hydration of aryl alkenes to β-aryl ethanols via an aryl epoxide intermediate", "mechanism_family": ["mediator_anodic", "paired_electrolysis", "cation_initiated"], "electrochemical_role": "Anodic oxidation of Br- to Br2/[Br]+ which acts as mediator to brominate the alkene; cathodic reduction of H2O generates OH-/H2 and later reduces the aryl epoxide to the anti-Markovnikov alcohol", "key_intermediates": [{"name": "bromonium ion ([Br]+ / HBrO)", "smiles": null, "role": "transient"}, {"name": "cyclic aryl bromonium ion", "smiles": null, "role": "reactive"}, {"name": "β-bromoalcohol (aryl)", "smiles": null, "role": "reactive"}, {"name": "aryl epoxide", "smiles": null, "role": "reactive"}, {"name": "benzylic ketyl/α-oxy radical (after cathodic 1e- reduction of epoxide)", "smiles": null, "role": "transient"}], "electron_flow": "During constant-current electrolysis, anode oxidizes 2 Br- to Br2 which disproportionates with H2O to [Br]+/HBr; [Br]+ adds to the aryl alkene to form a cyclic bromonium that is opened by water to give a β-bromoalcohol, which is converted to an aryl epoxide by OH- (generated at the cathode from water reduction). Under constant-voltage electrolysis, the aryl epoxide is cathodically reduced (1e-, then protonation, then 1e-) to deliver the anti-Markovnikov β-aryl ethanol.", "rate_determining_step": null, "probe_reagents": [{"name": "aliphatic alkene (1al) control", "smiles": null, "purpose": "other", "observation": "Yielded only the epoxide 4al (60%) with no anti-Markovnikov alcohol, indicating aryl group is required for cathodic epoxide reduction"}, {"name": "isolated aryl epoxide intermediate", "smiles": null, "purpose": "intermediate_trap", "observation": "Epoxide isolated and shown to be reduced to the β-aryl ethanol product, supporting it as an on-cycle intermediate"}], "evidence_types_used": ["isolation_of_intermediate", "stoichiometric_intermediate"], "evidence_strength": "medium", "notes": "Mechanism is sequential paired electrolysis carried out in two stages (constant-current then constant-voltage). Alternative direct hydration pathways via benzylic carbocation or radical-polar crossover are ruled out implicitly by the requirement of the aryl epoxide intermediate; aliphatic substrates stop at the epoxide stage because their epoxides are not reducible under the cathodic conditions."}
